US09359371B2
In THF (20 mL) were dissolved 2-(3-azabicyclo[3.1.0]hexan-3-yl)-4-((3-chloro-4-methoxybenzyl)amine)pyrimidine-5-carboxylic acid (153 mg, 0.41 mmol), 1-methylpiperazine (49 mg, 0.49 mmol) and HATU (188 mg, 0.49 mmol). The solution was cooled in an ice bath then DIEA was added dropwisely (0.14 mL, 0.82 mmol). The reaction was conducted at ambient temperature for 8 h, followed by addition of water (20 mL) and extraction with ethyl acetate or DCM. The organic phase was dried, concentrated and purified by silica gel column chromatography (DCM/methanol=25/1) to give 2-(3-azabicyclo[3.1.0]hexan-3-yl)-4-((3-chloro-4-methoxybenzyl)amino)pyrimidin-5-yl)(4-methylpiperazin-1-yl)ketone (35 mg, 19% yield).

reactant | 1-methylpiperazine | 0.49 mmol, 49 mg | CN1CCNCC1 | C5H12N2
reactant | HATU | 0.49 mmol, 188 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | CCN(C(C)C)C(C)C | C8H19N
reactant | water | 20 mL | O | H2O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (4-methylpiperazin-1-yl)ketone | 35 mg, 19% yield | CN1CCN(CC1)C(=O)N1CCN(CC1)C | C11H22N4O
